US08207172B2
Preparation of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-piperidin-4-yl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To a suspension of tert-butyl 4-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl]piperidine-1-carboxylate 1.2 g (1.8 mmol, 1 eq) in DCM (40 mL) was added trifluoroacetic acid (4.2 mL, 30 eq). The reaction mixture was stirred at rt for 3 h. The Volatile material was evaporated and the residue was diluted with EtOAc. Sat. Na2CO3 was added until pH about 7. The layers were separated and the aqueous layer was extracted with EtOAc (3 times) and the combined organic layers were concentrated to give a brown solid (1 g, quantitative). 1H-NMR (DMSO-d6) δ 8.41 (s, 1H), 8.33 (s, 1H), 8.01 (s, 1H), 7.74 (d, 1H), 7.47 (m, 2H), 7.30 (m, 2H), 7.20 (m, 2H), 5.24 (s, 2H), 4.25 (m, 1H), 3.40 (t, 2H), 3.18 (m, 2H), 2.93 (t, 2H), 2.76 (t, 2H), 2.05 (m, 2H), 1.91 (m, 2H). LCMS RT=2.83 min; [M+H]+=561.2.

reactant | tert-butyl 4-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-2-yl]piperidine-1-carboxylate | 1.8 mmol, 1.2 g, 1 eq | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=C1C1=C(C3=CN(N=C3CC1)C1CCN(CC1)C(=O)OC(C)(C)C)S2 | C34H34ClFN6O3S
reactant | trifluoroacetic acid | 4.2 mL, 30 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-piperidin-4-yl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)C1CCNCC1)S2 | C29H26ClFN6OS
